US04950674
1-[4-[3-[4-[Bis(2,4-Difluorophenyl)methyl]-1-piperidinyl]propoxy]-3-methoxyphenyl]ethanone oxalate [1:1]
A mixture of the free base of 4-[bis(2,4-difluorophenyl)methyl]piperidine hydrochloride [1:1 (7.30 g, 0.023 mole), 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone (5.57 g, 0.023 mole), and potassium carbonate (5.54 g, 0.04 mole) was heated overnight at reflux in 350 ml of 1-butanol containing potassium iodide (0.2 g). The reaction mixture was filtered and then concentrated to dryness. The residue was dissolved in chloroform, and the solution was extracted with 5% sodium hydroxide. The chloroform layer was dried over sodium sulfate and filtered. The removal of chloroform provided a dark brown oil (quantitative). This material was converted to the oxalate salt in methanol-ethyl ether. A white solid was isolated and dried in vacuo overnight at 80° C. This procedure furnished 8.23 g (57.7%) of white, crystalline product, mp 151°-153° C.

reactant | 4-[bis(2,4-difluorophenyl)methyl]piperidine hydrochloride | Cl.FC1=C(C=CC(=C1)F)C(C1CCNCC1)C1=C(C=C(C=C1)F)F
reactant | 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone | 0.023 mole, 5.57 g | ClCCCOC1=C(C=C(C=C1)C(C)=O)OC | C12H15ClO3
reactant | potassium carbonate | 0.04 mole, 5.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.2 g | [I-].[K+]
reactant | 1-butanol | 350 ml | C(CCC)O | C4H10O
solvent | methanol ethyl ether | CO.C(C)OCC
product | 1-[4-[3-[4-[Bis(2,4-Difluorophenyl)methyl]-1-piperidinyl]propoxy]-3-methoxyphenyl]ethanone oxalate | C(C(=O)O)(=O)O.FC1=C(C=CC(=C1)F)C(C1CCN(CC1)CCCOC1=C(C=C(C=C1)C(C)=O)OC)C1=C(C=C(C=C1)F)F | InChI=1S/C30H31F4NO3.C2H2O4/c1-19(36)21-4-9-28(29(16-21)37-2)38-15-3-12-35-13-10-20(11-14-35)30(24-7-5-22(31)17-26(24)33)25-8-6-23(32)18-27(25)34;3-1(4)2(5)6/h4-9,16-18,20,30H,3,10-15H2,1-2H3;(H,3,4)(H,5,6)
